************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS392
* Top Cell Name: BIT_SELECT
* View Name:     schematic
* Netlisted on:  Jun  8 14:00:34 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: EECS392
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B Output
*.PININFO A:I B:I Output:O
MM2 Output A B vdd! PMOS_VTG W=300n L=50n m=1
MM1 Output B A vdd! PMOS_VTG W=300n L=50n m=1
MM0 net9 A vdd! vdd! PMOS_VTG W=300n L=50n m=1
MM5 Output net9 B gnd! NMOS_VTG W=280.0n L=50n m=1
MM4 Output B net9 gnd! NMOS_VTG W=280.0n L=50n m=1
MM3 net9 A gnd! gnd! NMOS_VTG W=280.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    Inverter
* View Name:    schematic
************************************************************************

.SUBCKT Inverter In Out
*.PININFO In:I Out:O
MM0 Out In vdd! vdd! PMOS_VTG W=1.96u L=50n m=1
MM1 Out In gnd! gnd! NMOS_VTG W=1.44u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B Output
*.PININFO A:I B:I Output:O
MM2 Output B vdd! vdd! PMOS_VTG W=1.44u L=50n m=1
MM0 Output A vdd! vdd! PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B gnd! gnd! NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 gnd! NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    AND
* View Name:    schematic
************************************************************************

.SUBCKT AND A B Output
*.PININFO A:I B:I Output:O
XI5 net8 Output / Inverter
XI4 A B net8 / NAND
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    HALF_ADDER
* View Name:    schematic
************************************************************************

.SUBCKT HALF_ADDER A B Cout S
*.PININFO A:I B:I Cout:O S:O
XI0 A B S / XOR
XI2 A B Cout / AND
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B Output
*.PININFO A:I B:I Output:O
MM1 Output A gnd! gnd! NMOS_VTG W=720.0n L=50n m=1
MM0 Output B gnd! gnd! NMOS_VTG W=720.0n L=50n m=1
MM3 Output B net15 vdd! PMOS_VTG W=1.56u L=50n m=1
MM2 net15 A vdd! vdd! PMOS_VTG W=1.56u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    OR
* View Name:    schematic
************************************************************************

.SUBCKT OR A B Output
*.PININFO A:I B:I Output:O
XI0 A B net7 / NOR
XI1 net7 Output / Inverter
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    FULL_ADDER
* View Name:    schematic
************************************************************************

.SUBCKT FULL_ADDER A B Cin Cout S
*.PININFO A:I B:I Cin:I Cout:O S:O
XI5 net11 Cin S / XOR
XI0 A B net11 / XOR
XI8 net11 Cin net14 / AND
XI9 A B net7 / AND
XI7 net14 net7 Cout / OR
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    4BIT_RIPPLE
* View Name:    schematic
************************************************************************

.SUBCKT 4BIT_RIPPLE A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> Cout S<3> S<2> 
+ S<1> S<0>
*.PININFO A<3>:I A<2>:I A<1>:I A<0>:I B<3>:I B<2>:I B<1>:I B<0>:I Cout:O 
*.PININFO S<3>:O S<2>:O S<1>:O S<0>:O
XI0 A<0> B<0> net5 S<0> / HALF_ADDER
XI3 A<3> B<3> net7 Cout S<3> / FULL_ADDER
XI2 A<2> B<2> net6 net7 S<2> / FULL_ADDER
XI1 A<1> B<1> net5 net6 S<1> / FULL_ADDER
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    2_1MUX
* View Name:    schematic
************************************************************************

.SUBCKT 2_1MUX IN0 IN1 Output S
*.PININFO IN0:I IN1:I S:I Output:O
MM1 IN1 S Output gnd! NMOS_VTG W=280.0n L=50n m=1
MM0 IN0 net10 Output gnd! NMOS_VTG W=280.0n L=50n m=1
MM3 IN1 net10 Output vdd! PMOS_VTG W=300n L=50n m=1
MM2 IN0 S Output vdd! PMOS_VTG W=300n L=50n m=1
XI0 S net10 / Inverter
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    SELECT_BLOCK
* View Name:    schematic
************************************************************************

.SUBCKT SELECT_BLOCK A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> Cin Cout S<3> 
+ S<2> S<1> S<0>
*.PININFO A<3>:I A<2>:I A<1>:I A<0>:I B<3>:I B<2>:I B<1>:I B<0>:I Cin:I Cout:O 
*.PININFO S<3>:O S<2>:O S<1>:O S<0>:O
XI7 A<3> B<3> net14 net9 net025 / FULL_ADDER
XI6 A<2> B<2> net19 net14 net026 / FULL_ADDER
XI5 A<1> B<1> net24 net19 net027 / FULL_ADDER
XI4 A<0> B<0> vdd! net24 net028 / FULL_ADDER
XI3 A<3> B<3> net34 net29 net30 / FULL_ADDER
XI2 A<2> B<2> net018 net34 net35 / FULL_ADDER
XI1 A<1> B<1> net44 net018 net40 / FULL_ADDER
XI0 A<0> B<0> gnd! net44 net45 / FULL_ADDER
XI14 net30 net025 S<3> Cin / 2_1MUX
XI13 net35 net026 S<2> Cin / 2_1MUX
XI12 net40 net027 S<1> Cin / 2_1MUX
XI11 net45 net028 S<0> Cin / 2_1MUX
XI10 net29 net9 Cout Cin / 2_1MUX
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    BIT_SELECT
* View Name:    schematic
************************************************************************

.SUBCKT BIT_SELECT A<7> A<6> A<5> A<4> A<3> A<2> A<1> A<0> B<7> B<6> B<5> B<4> 
+ B<3> B<2> B<1> B<0> Cout S<7> S<6> S<5> S<4> S<3> S<2> S<1> S<0> init
*.PININFO A<7>:I A<6>:I A<5>:I A<4>:I A<3>:I A<2>:I A<1>:I A<0>:I B<7>:I 
*.PININFO B<6>:I B<5>:I B<4>:I B<3>:I B<2>:I B<1>:I B<0>:I init:I Cout:O 
*.PININFO S<7>:O S<6>:O S<5>:O S<4>:O S<3>:O S<2>:O S<1>:O S<0>:O
XI3 A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> init S<3> S<2> S<1> S<0> / 
+ 4BIT_RIPPLE
XI1 A<7> A<6> A<5> A<4> B<7> B<6> B<5> B<4> init Cout S<7> S<6> S<5> S<4> / 
+ SELECT_BLOCK
.ENDS

